US05656642
0.88 ml of triethylamine, 0.1 g of 10% palladium carbon were added to 20 ml of a solution of 0.86 g of 7-chloro-4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole in ethanol. The mixture was subjected to hydrogenation at normal pressure at room temperature for 6 hours. The catalyst was removed by filtration. The filtrate was subjected to distillation to remove the solvent. The residue was dissolved in methylene chloride. The solution was water-washed, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by a silical gel column chromatography (eluant:methylene chloride/methanol=30/1). The product was converted into a hydrochloride in ethanol to obtain 0.19 g of 4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole hydrochloride as a colorless amorphous.

reactant | triethylamine | 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole | 0.86 g | ClC=1C=CC(=C2CC(NC12)=O)C(=O)N1CCC(CC1)N(CCC1=CC=CC=C1)C | C23H26ClN3O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | 4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole hydrochloride | 0.19 g | Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)C(=O)C1=C2CC(NC2=CC=C1)=O | InChI=1S/C23H27N3O2.ClH/c1-25(13-10-17-6-3-2-4-7-17)18-11-14-26(15-12-18)23(28)19-8-5-9-21-20(19)16-22(27)24-21;/h2-9,18H,10-16H2,1H3,(H,24,27);1H
